US05220000
4-Nitrobenzylidenemalononitrile
3.45 Grams(22.83 mmol) of 4-nitrobenzaldehyde and 1.52 grams(23.03 mmol) of malononitrile were dissolved in 200 milliliters of anhydrous ethanol. To this was added 0.35 milliliter of triethylamine, and the mixture was stirred and refluxed, under nitrogen, for 2 hours. The solvent was removed using a rotary evaporator and the crude reaction product was crystallized from ethanol. 2.33 Grams(51.5%) of the product was obtained. IR (in nujol) analysis showed bands at 3100, 3025, 2950-2850, 2220 (CN), 1595, 1570, 1510, 1450, 1410, 1365, 1340, 1315, 1300, 1210, 935, 850, 835, 780, 745, 680 and 620 cm-1NMR (CDCl3) analysis showed signals at 8.40(d, 2H, J=9 Hz), 8.08(d, 2H, J=9 Hz) and 7.89(s, 1H) ppm.

reactant | 4-nitrobenzaldehyde | 22.83 mmol | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | malononitrile | 23.03 mmol, 1.52 grams | C(CC#N)#N | C3H2N2
reactant | triethylamine | 0.35 milliliter | C(C)N(CC)CC | C6H15N
solvent | ethanol | 200 milliliters | C(C)O | C2H6O
product | 4-Nitrobenzylidenemalononitrile | [N+](=O)([O-])C1=CC=C(C=C(C#N)C#N)C=C1 | C10H5N3O2
